US09193723B2
2-(3-methylbutanamido)thiazole-5-carboxylic acid
The title compound was prepared as described in Example 52A, substituting 3-methylbutanoyl chloride for 2-cyclopentylacetyl chloride and methyl 2-aminothiazole-5-carboxylate for methyl 4-aminobenzoate.

reactant | 2-cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | methyl 2-aminothiazole-5-carboxylate | NC=1SC(=CN1)C(=O)OC | C5H6N2O2S
reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | 2-(3-methylbutanamido)thiazole-5-carboxylic acid | CC(CC(=O)NC=1SC(=CN1)C(=O)O)C | C9H12N2O3S
